US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and benzo[1,3]dioxole-5-boronic acid were coupled in the same way as in Example 30 to give 2-{3-[3-(benzo[1,3]dioxol-5-yl)-4-fluorophenyl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid (8 mg, 4%): m/z (ES+) 409 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | benzo[1,3]dioxole-5-boronic acid | O1COC2=C1C=CC(=C2)B(O)O | C7H7BO4
product | 2-{3-[3-(benzo[1,3]dioxol-5-yl)-4-fluorophenyl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol | 8 mg, 4% | O1COC2=C1C=CC(=C2)C=2C=C(C=CC2F)C2=CN=C1N2C=CC(=C1F)C(C)(C)O | C23H18F2N2O3
